US05190959
The procedure of Example 32 (a) was repeated except for using (4-chlorophenyl)-2-pyridylmethanol and 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine instead of phenyl-2-pyridylmethanol and 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine to give oily 4-[(4-chlorophenyl)-2-pyridylmethoxy]-1-[3-(2-nitrophenoxy)propyl]piperidine.

reactant | (4-chlorophenyl)-2-pyridylmethanol | ClC1=CC=C(C=C1)C(O)C1=NC=CC=C1 | C12H10ClNO
reactant | 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine | OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-] | C14H20N2O4
product | 4-[(4-chlorophenyl)-2-pyridylmethoxy]-1-[3-(2-nitrophenoxy)propyl]piperidine | ClC1=CC=C(C=C1)C(OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-])C1=NC=CC=C1 | C26H28ClN3O4
